US06297260B1
18a. 2,2,2-Trifluoro-N-{2-[(2-hyroxyethyl)amino]ethyl}acetamide
2-(2-aminoethylamino)ethanol (10 g, 96.01 mmol) was added via syringe to a stirred solution of ethyl trifluoroacetate (13.64 g, 96.01 mmol) in dry Et2O (30 mL) at 0° C. The resulting solution was stirred at room temperature for 2 hours by which time a white precipitate had formed. The precipitate was removed by filtration, washed with Et2O (100 mL), and dried in vacuo for 3 hours to afford the title compound (13.6 g, 100%). 1H NMR (300 MHz, CDCl3) δ (t, J=5.1 Hz, 2H), 3.45 (t, J=5.6 Hz, 2H), 2.86 (t, J=5.6 Hz, 2H), 2.78 (t, J=4.9 Hz, 2H), 2.22 (br s, 2H); mass spectrum (API-TIS) m/z 201 (M+H).

reactant | 2-(2-aminoethylamino)ethanol | 96.01 mmol, 10 g | NCCNCCO | C4H12N2O
reactant | ethyl trifluoroacetate | 96.01 mmol, 13.64 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 2,2,2-Trifluoro-N-{2-[(2-hyroxyethyl)amino]ethyl}acetamide | 13.6 g, 100% | FC(C(=O)NCCNCCO)(F)F | C6H11F3N2O2
